US07253171B2
(S)-2-[3-(2-Benzenesulfonylphenyl)ureido]-3-(4-hydroxyphenyl) propionic acid methyl ester
A solution of 2-benzenesulfonylphenyl isocyanate (600 mg, 2.31 mmol, prepared as described in Preparation 20) in dichloromethane (4 ml) was slowly added to a solution of L-tyrosine methyl ester hydrochloride (589 mg, 2.54 mmol) and triethylamine (0.64 ml, 4.62 mmol) in dichloromethane (4 ml) and the resulting reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (50 ml) and washed with hydrochloric acid 1N (2×20 ml), saturated aqueous NaHCO3 (2×20 ml) and brine (1×20 ml). The organic layer was dried (MgSO4) and concentrated under reduced pressure to yield the title compound (930 mg, 89%) as a viscous oil.

reactant | 2-benzenesulfonylphenyl isocyanate | 2.31 mmol, 600 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)N=C=O | C13H9NO3S
reactant | L-tyrosine methyl ester hydrochloride | 2.54 mmol, 589 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | triethylamine | 4.62 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-2-[3-(2-Benzenesulfonylphenyl)ureido]-3-(4-hydroxyphenyl) propionic acid methyl ester | 930 mg, 89% | COC([C@H](CC1=CC=C(C=C1)O)NC(=O)NC1=C(C=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C23H22N2O6S
